US08389523B2
A mixture of 6.3 g (23 mmol) of N-(2-nitrophenyl)-2,3-dihydrobenzo[b][1,4]dioxin-6-amine, 9.0 g (161 mmol) of iron powder, acetic acid (1 ml), water (35 ml) and toluene (70 ml) were heated to reflux for 8 hours. The reaction mixture was filtered aid to separate the waste. The organic layer of the filtrate was batched off, washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 5.1 g (yield: 91%) of N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)benzene-1,2-diamine) as a brown liquid.

reactant | N-(2-nitrophenyl)-2,3-dihydrobenzo[b][1,4]dioxin-6-amine | 23 mmol, 6.3 g | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC2=C(OCCO2)C=C1 | C14H12N2O4
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | water | 35 ml | O | H2O
catalyst | iron | 161 mmol, 9.0 g | [Fe] | Fe
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)benzene-1,2-diamine | 5.1 g, yield: 91% | O1C2=C(OCC1)C=C(C=C2)NC=2C(=CC=CC2)N | C14H14N2O2
